Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Bilaterally heel pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y.o. male with history of hypertrophic cardiomyopathy 
presents from outside hospital with bilateral calcaneus 
fractures.  The patient reports that earlier today he was up on 
a ladder, approximately 8 feet off of the ground.  The bottom of 
the ladder started to slide backwards, and the ladder fell to 
the ground.  He landed on his feet, and felt immediate heel pain 
bilaterally. The patient denies head strike, LOC, or back pain.  


He reports no other pain or injury.  He was seen at ___ 
___ and had plain films of his bilateral ankle/feet which 
revealed bilateral comminuted heel fractures.  He was 
transferred to ___ for further management.

He denies recent fever, cough, chest pain, shortness of breath, 
n/v/d, and abodminal pain.

 
Past Medical History:
(1) Hypertrophic Cardiomyopathy
(2) Depression

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
General Evaluation Exam
Sensorium:           Awake (x) Awake impaired () Unconscious ()
Airway:              Intubated () Not intubated (x)
Breathing:           Stable (x) Unstable ()
Circulation:         Stable (x)   Unstable ()

Musculoskeletal Exam
Neck   Normal (x)  Abnormal ()   Comments:
Spine  Normal (x)  Abnormal ()   Comments:
Clavicle
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Shoulder
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Arm
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Elbow
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Forearm
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Wrist
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Hand
     R Normal ()  Abnormal (x)   Comments: superficial abrasions
over dorsum of right hand.
     L Normal (x)  Abnormal ()   Comments:
Pelvis
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Hip
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Thigh
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Knee
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Leg
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Ankle
     R Normal ()  Abnormal (x)    Comments: mild edema,
tenderness to palpation of the heel, plantar surface. No 
palpable
deformity. 2+ ___ pulses. Normal sensation, normal capillary
refill.
     L Normal ()  Abnormal (x)    Comments: moderate edema,
tenderness to palpation of the heel, plantar surface. No 
palpable
deformity. 2+ ___ pulses. Normal sensation, normal capillary
refill.
Foot
     R Normal ()  Abnormal (x)    Comments: see above
     L Normal ()  Abnormal (x)    Comments: see above

Vascular:
Radial   R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
Ulnar    R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
DP       R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
___       R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()

Neuro:
Deltoid    R (5) L (5)
Biceps     R (5) L (5)
Triceps    R (5) L (5)
Wrist Flx  R (5) L (5)
Wrist Ext  R (5) L (5)
Finger Flx R (5) L (5)
Finger Ext R (5) L (5)
Thumb Ext  R (5) L (5)
___ DIP    R (5) L (5)
Index Abd  R (5) L (5)
Thumd Add  R (5) L (5)
Quad       R (5) L (5)
Ant Tib    R (5) L (5)
___        R ___ limited by pain) L ___, limited by pain)
Peroneal   R ___ limited by pain) L ___ limited by pain)
___         R ___ limited by pain) L ___ limited by pain)

 
Pertinent Results:
___ 06:40PM   GLUCOSE-91 UREA N-11 CREAT-0.9 SODIUM-140 
POTASSIUM-4.4 CHLORIDE-100 TOTAL CO2-27 ANION GAP-17
___ 06:40PM   WBC-10.2 RBC-4.39* HGB-14.0 HCT-40.1 MCV-91 
MCH-31.8 MCHC-34.9 RDW-13.7
___ 06:40PM   NEUTS-74.6* LYMPHS-16.6* MONOS-7.0 EOS-1.1 
BASOS-0.7
 
Brief Hospital Course:
Mr. ___ was evaluated in the emergency room by the 
orthopaedic trauma service and found to have bilateral calcaneal 
fractures. He was admitted to ortho for pain control and 
bilateral bulky ___ casts were placed.  He was evaluated by 
physical therapy during his hospital stay.

On the floor he was given a regular diet with PO pain meds.  At 
the time of discharge he was afebrile with stable vital signs, 
tolerating a regular diet, voiding spontaneously, and with his 
pain well controled.

 

 
Medications on Admission:
(1) Atenolol 50mg PO daily
(2) Paxil 20mg PO daily

 
Discharge Medications:
1. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours).
Disp:*240 Tablet(s)* Refills:*2*
2. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
3. Lovenox 40 mg/0.4 mL Syringe Sig: One (1) injection 
Subcutaneous once a day for 4 weeks.
Disp:*28 1* Refills:*0*
4. atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. paroxetine HCl 20 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
6. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q3H (every 3 hours) 
as needed for Pain.
Disp:*90 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bilateral calcaneal fractures

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Wound Care: 
- Keep Incision clean and dry. 
- Do not soak the incision in a bath or pool. 

Activity: 
- Continue to be non-weight bearing on both of your legs.

Other Instructions
- Resume your regular diet. 
- Avoid nicotine products to optimize healing. 
- Resume your home medications. Take all medications as 
instructed. 
- Continue taking the Lovenox to prevent blood clots.
- You have also been given Additional Medications to control 
your pain. Please allow 72 hours ___ through ___, 9am to 
4pm) for refill of narcotic prescriptions, so plan ahead. There 
will be no prescription refils on ___, or 
holidays. You can either have them mailed to your home or pick 
them up at the clinic located on ___. We are not allowed 
to call in narcotic (oxycontin, oxycodone, percocet) 
prescriptions to the pharmacy. In addition, we are only allowed 
to write for pain medications for 90 days from the date of 
surgery.
- Narcotic pain medication may cause drowsiness. Do not drink 
alcohol while taking narcotic medications. Do not operate any 
motor vehicle or machinery while taking narcotic pain 
medications. Taking more than recommended may cause serious 
breathing problems.

If you have questions, concerns or experience any of the below 
danger signs then please call your doctor at ___ or go 
to your local emergency room.
 
Followup Instructions:
___